US04143138
To a stirred solution of 12.8 grams (0.07 mole) of 3,5-dichloro-4H-1,2,6-thiadiazin-4-one and 6.7 grams (0.07 mole) of 3-hydroxypyridine in 300 ml of tetrahydrofuran was added dropwise 7.1 grams (0.07 mole) of triethylamine. During the addition the exothermic reaction caused the reaction mixture temperature to rise to 34° C. Upon complete addition, the reaction mixture was stirred for 16 hours during which time it cooled to ambient temperature. The reaction mixture was filtered to remove triethylamine hydrochloride. The filter cake was washed with tetrahydrofuran. The filtrate and wash were combined and evaporated under reduced pressure to a residual solid. The residue was triturated with 300 ml of distilled water and the insolubles collected by filtration. The filter cake was washed with water and recrystallized twice from ethanol. A sample of the recrystallized solid was dissolved in chloroform and subjected to analysis by thin layer chromatography. This analysis indicated that the solid contained impurities. The filtrates from the recrystallizations were combined and evaporated under reduced pressure to a residue. The residue was combined with the twice-recrystallized solid and dissolved in chloroform. The solution was slurried with silica gel in an effort to remove the impurities. The mixture was filtered and the filtrate was evaporated under reduced pressure to a residual solid. The solid was recrystallized from ethanol to give 7.0 grams (42%) of 3-chloro-5-(3-pyridyloxy)-4H-1,2,6-thiadiazin-4-one; m.p. 134.5°-135.5° C.

reactant | 3,5-dichloro-4H-1,2,6-thiadiazin-4-one | 0.07 mole, 12.8 grams | ClC1=NSN=C(C1=O)Cl | C3Cl2N2OS
reactant | 3-hydroxypyridine | 0.07 mole, 6.7 grams | OC=1C=NC=CC1 | C5H5NO
reactant | triethylamine | 0.07 mole, 7.1 grams | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-chloro-5-(3-pyridyloxy)-4H-1,2,6-thiadiazin-4-one | 7.0 grams, 42% | ClC1=NSN=C(C1=O)OC=1C=NC=CC1 | C8H4ClN3O2S
